US04673686
2,4-dimethoxy-5-chlorosulphonyl benzoic acid
1,800 ml of chlorosulphonic acid is placed in a 4 liter flask fitted with an agitator and a thermometer, and is cooled to 10° C. 328 g of finely powdered 2,4-dimethoxy benzoic acid is added in stages in the course of 45 minutes, between 10° and 15° C. The acid dissolves gradually as it is introduced. When all the acid has been added the solution is gradually heated to 55° C. and that temperature is maintained for 5 hours. The solution is left to stand overnight, then poured little by little into 17 kg of ice, with agitation and with external cooling. The acid which is precipitated is drained, washed with water and dried in air.

reactant | 2,4-dimethoxy benzoic acid | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | chlorosulphonic acid | 1,800 ml | ClS(=O)(=O)O | ClHO3S
product | 2,4-dimethoxy-5-chlorosulphonyl benzoic acid | COC1=C(C(=O)O)C=C(C(=C1)OC)S(=O)(=O)Cl | C9H9ClO6S
